US07514068B2
Example 50: 4-(tert-Butyldimethylsilyloxy)piperidine-2,6-dione.
Dissolve 4.1 mmol of 4-(tert-butyldimethylsilyloxy)dihydro-2H-pyran-2,6(3H)-dione (Nagao Y et al., Chem. Lett. 1990 9: 1503) in 10 mL of dioxane in a pressure tube. Cool in an ice/water bath, add 15 mL of saturated ammonium hydroxide and treat with gaseous ammonia via bubbler for about 10 min. Cap the pressure tube and heat in a 100° C. oil bath for 17 h. Cool the mixture and concentrate in vacuo. Purify the residue by silica gel chromatography using ethyl acetate/hexanes eluant to yield the title compound.

reactant | 4-(tert-butyldimethylsilyloxy)dihydro-2H-pyran-2,6(3H)-dione | 4.1 mmol | [Si](C)(C)(C(C)(C)C)OC1CC(OC(C1)=O)=O | C11H20O4Si
reactant | ammonium hydroxide | 15 mL | [OH-].[NH4+]
reactant | ammonia | N | H3N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(tert-Butyldimethylsilyloxy)piperidine-2,6-dione | [Si](C)(C)(C(C)(C)C)OC1CC(NC(C1)=O)=O | C11H21NO3Si
